US09421209B2
Intermediate 99: 1-(4-bromo-2-fluorophenyl)propan-1-ol
To a ice-cold solution of ethyl magnesium iodide prepared from magnesium (2.39 g, 98.51 mmoles) and ethyl iodide (7.88 ml, 98.51 mmoles) in diethyl ether (50 ml), 4-bromo-2-fluorobenzaldehyde (5 g, 24.62 mmoles) in diethyl ether (10 ml) was added and warmed to room temperature. After 12 h, the reaction mixture was cooled to 0° C., quenched with dilute HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulphate and concentrated under reduced pressure to afford the title compound as red colour liquid (5.8 g, 99% yield) which is used as such for step.

reactant | ethyl magnesium iodide | C(C)[Mg]I
reactant | magnesium | 98.51 mmoles, 2.39 g | [Mg] | Mg
reactant | ethyl iodide | 98.51 mmoles, 7.88 ml | C(C)I | C2H5I
reactant | 4-bromo-2-fluorobenzaldehyde | 24.62 mmoles, 5 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-(4-bromo-2-fluorophenyl)propan-1-ol | BrC1=CC(=C(C=C1)C(CC)O)F | C9H10BrFO
